* C:\Users\pig\Documents\ee308\lab1\output amplifier.asc
R1 N001 N004 750
R3 N011 N017 50
R4 N013 N017 50
Q1 N004 N010 N011 0 2N3904
R5 N017 N020 5k
Q2 N001 N006 N013 0 2N3904
R6 N006 0 700
R7 N007 N006 10k
R8 N018 N020 1k
Q6 N003 N005 N008 0 2N3904
Q9 N019 N018 N016 0 2N3906
R9 N008 N007 5
R10 N007 N016 5
R12 0 out 50
V1 N001 0 12
V2 0 N020 12
Q3 N005 N004 N001 0 2N3906
R11 N010 N009 200
R15 out N007 50
D1 N014 N018 1N4148
D2 N005 N014 1N4148
R16 N019 N020 200
R14 N001 N003 200
C1 N007 N006 0.2p
R2 N009 in {pos+1}
R13 N015 N009 {potVal - pos +1}
R17 0 N015 12
C2 N001 N003 20n
C3 N019 N020 20n
C4 N013 N012 600p
R18 N012 N011 100
V3 in 0 PULSE(-50m 50m 0 1n 1n 0.5u 1u) AC 1
R19 N002 N006 100k
R20 N001 N002 825
R21 0 N002 175
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
* .ac oct 100 1k 1Gig
* (+)
* (-)
* 0.5W
* .step param pos 0 2k 100
.tran 0 20u 18u
.param potVal = 1k
.param pos = 500
.backanno
.end
